### PR TITLE
Fixes to send_ipc and sendIPC

### PR DESCRIPTION
**Pull request by MitchellBuckley**
**I recommend reviewing commit-by-commit.**

In this PR:

1. Update `send_ipc` (abstract) to match source. Fix AInvs.
2. Update `sendIPC` to be slightly easier for refinement.
3. Remove `sym_ref` assertions from `replyPush` and `schedContextDonate`
   a. These assertions can actually fail in executable code.
4. Fix up `refine` for these changes in Haskell
5. Some slight improvements to `replyPush` lemmas. 

As a side effect:
* 1 new heap
* many new `sym_refs` lemmas based on heaps.

### CODE REVIEW

**Comment by MitchellBuckley** [comment]
Since @VictorPhan has already reviewed this once, can I ask someone else to review this please? There is not a rush, but there are two other peices of work which rely on this.

**Review by VictorPhan — APPROVED** [review]
if it's not different than the version I reviewed, then I'll stay on approve

File: proof/refine/ARM/KHeap_R.thy [hunk 1]
```diff
@@ -3921,4 +3935,315 @@ lemma threadGet_getObject:
...
   done
 
+lemma obj_at'_typ_at'[elim!]:
+  "obj_at' (P :: ('a :: pspace_storable) \<Rightarrow> bool) p s \<Longrightarrow>
+   obj_at' (\<top> :: ('a :: pspace_storable) \<Rightarrow> bool) p s"
+  by (clarsimp simp: obj_at'_real_def ko_wp_at'_def)
+
+lemma sc_tcbs_of_pred_map_equiv:
+  "sc_at' p s \<Longrightarrow>
+   obj_at' (\<lambda>x. scTCB x = Some t) p s = pred_map_eq t (scTCBs_of s) p"
```
Comment (corlewis) [inline proof/refine/ARM/KHeap_R.thy:3945]: Nice, I think we've needed lemmas like these ones for a while, that link `obj_at'` and projections.

File: proof/refine/ARM/KHeap_R.thy [hunk 2]
```diff
@@ -3921,4 +3935,315 @@ lemma threadGet_getObject:
...
+  apply (clarsimp simp: valid_tcb'_def)
+  done
+
+lemma not_idle_scTCB:
+  "tcbs_scs_sym_refs s \<Longrightarrow>
+   valid_objs' s \<Longrightarrow>
+   valid_idle' s \<Longrightarrow>
+   p \<noteq> idle_sc_ptr \<Longrightarrow>
+   sc_at' p s \<Longrightarrow>
+   obj_at' (\<lambda>x. scTCB x \<noteq> Some idle_thread_ptr) p s"
```
Comment (corlewis) [inline proof/refine/ARM/KHeap_R.thy:3993]: These lemmas are really nice as well, I think there's been quite a few times where I've had to recreate something similar on the spot.

File: proof/refine/ARM/KHeap_R.thy [hunk 3]
```diff
@@ -3921,4 +3935,315 @@ lemma threadGet_getObject:
...
+  "setObject c (n::notification) \<lbrace>\<lambda>s. P' (tcbs_of' s)\<rbrace>"
+  "setObject c (sc::sched_context) \<lbrace>\<lambda>s. P' (tcbs_of' s)\<rbrace>"
+  by setObject_easy_cases+
+
+lemma setObject_cte_tcb_scs_of'[wp]:
+  "setObject c (reply::cte) \<lbrace>\<lambda>s. P' (tcb_scs_of' s)\<rbrace>"
+  by setObject_easy_cases
+
+lemma setObject_tcb_scs_of'[wp]:
+  "setObject c (tcb::tcb) \<lbrace>\<lambda>s. P' (scs_of' s)\<rbrace>"
```
Comment (corlewis) [inline proof/refine/ARM/KHeap_R.thy:4034]: Is it worth doing this for more object types, like you did for `tcbs_of'`? Or is this a case of only adding different types as necessary.

File: proof/refine/ARM/Ipc_R.thy [hunk 4]
```diff
@@ -4946,9 +4940,96 @@ lemma valid_replies'_no_tcb_not_linked:
...
+crunches schedContextUpdateConsumed
+  for tcb_scs_of'[wp]: "\<lambda>s. P (tcb_scs_of' s)"
+
+crunches doIPCTransfer
+  for replySCs_of[wp]: "\<lambda>s. P (replySCs_of s)"
+  (wp: crunch_wps simp: crunch_simps)
+
+lemma schedContextUpdateConsumed_misc_heaps[wp]:
+  "schedContextUpdateConsumed scPtr \<lbrace>\<lambda>s. P (scReplies_of s) (replySCs_of s)\<rbrace>"
+  "schedContextUpdateConsumed scPtr \<lbrace>\<lambda>s. P (tcb_scs_of' s) (scTCBs_of s)\<rbrace>"
```
Comment (corlewis) [inline proof/refine/ARM/Ipc_R.thy:4996]: Wouldn't it be slightly stronger to combine these into one condition that handles all of the heaps? I don't have anything in mind that it would actually help with, but I also don't see a benefit in splitting them apart.

File: proof/refine/ARM/Ipc_R.thy [hunk 5]
```diff
@@ -4946,9 +4940,96 @@ lemma valid_replies'_no_tcb_not_linked:
...
+  and scs_tcbs_of[wp]: "\<lambda>s. P (tcb_scs_of' s) (scTCBs_of s)"
+  (wp: crunch_wps)
+
+(* END *)
+
+lemma replySCs_of_obj_at'_retract:
+  "valid_objs' s \<Longrightarrow>
+   replies_scs_sym_refs s \<Longrightarrow>
+     \<forall>rPtr scPtr. obj_at' (\<lambda>a. scReply a = Some rPtr) scPtr s \<longrightarrow>
+            obj_at' (\<lambda>a. replyNext a = Some (Head scPtr)) rPtr s"
```
Comment (corlewis) [inline proof/refine/ARM/Ipc_R.thy:5018]: I'm not sure, but this might be useful earlier.

File: proof/refine/ARM/Invariants_H.thy [hunk 6]
```diff
@@ -260,6 +260,30 @@ abbreviation tcbs_of' :: "kernel_state \<Rightarrow> obj_ref \<Rightarrow> tcb o
...
+  "sqheap_refs_retract heap symheap \<equiv> \<forall>p. sqheap_refs_retract_at heap symheap p"
+
+definition sqheap_refs_inv :: "('a \<rightharpoonup> 'b) \<Rightarrow> ('b \<rightharpoonup> 'a) \<Rightarrow> bool" where
+  "sqheap_refs_inv heap symheap \<equiv> sqheap_refs_retract heap symheap \<and> sqheap_refs_retract symheap heap"
+
+lemmas sqheap_refs_inv_defs = sqheap_refs_inv_def sqheap_refs_retract_def sqheap_refs_retract_at_def
+
+lemma sqheap_refs_inv_def2:
+  "sqheap_refs_inv heap symheap \<equiv> \<forall>p q. pred_map_eq q heap p \<longleftrightarrow> pred_map_eq p symheap q"
+  by (auto simp: atomize_eq sqheap_refs_inv_defs)
```
Comment (mbrcknl) [inline proof/refine/ARM/Invariants_H.thy:279]: I guess an `sqheap` is a *squashed* heap, as per our previous discussions on this? Might be worth a comment.

File: proof/refine/ARM/Ipc_R.thy [hunk 7]
```diff
@@ -5199,12 +5265,180 @@ lemma cancelIPC_notin_epQueue:
...
+   \<lbrace>\<lambda>_. tcbs_scs_sym_refs\<rbrace>"
+  unfolding maybeReturnSc_def
+  apply (simp add: liftM_def)
+  apply (rule hoare_seq_ext[OF _ stateAssert_sp])
+  apply (rule hoare_seq_ext[OF _ get_ntfn_sp'])
+  apply wpsimp
+      apply (wps, wpsimp wp: setSchedContext_scTCBs_of)
+     apply wpsimp+
+    apply (wps, wpsimp wp: threadSet_tcb_scs_of')
+   apply (wpsimp wp: threadGet_wp)
```
Comment (corlewis) [inline proof/refine/ARM/Ipc_R.thy:5284]: Is there much interesting happening in this sequence? You might be able to do some sort of `(wpsimp wp: .. | wps)+` here and in the next lemma.

File: proof/refine/ARM/Ipc_R.thy [hunk 8]
```diff
@@ -5199,12 +5265,180 @@ lemma cancelIPC_notin_epQueue:
...
+
+crunches cancelIPC
+  for tcbs_scs_sym_refs[wp]: tcbs_scs_sym_refs
+  (wp: crunch_wps threadSet_tcb_scs_of'_inv
+ ignore: setSchedContext threadSet)
+
+lemma cleanReply_replies_scs_sym_refs :
+  "\<lbrace>\<lambda>s. sqheap_refs_inv (scReplies_of s) (\<lambda>a. if a = rptr then None else replySCs_of s a)\<rbrace>
+  cleanReply rptr
+  \<lbrace>\<lambda>_. replies_scs_sym_refs\<rbrace>" (is "\<lbrace>?pre\<rbrace> _ \<lbrace>_\<rbrace>")
```
Comment (corlewis) [inline proof/refine/ARM/Ipc_R.thy:5346]: nitpick: indentation, and I guess you ended up not using the `?pre`

File: proof/refine/ARM/Ipc_R.thy [hunk 9]
```diff
@@ -5199,12 +5265,180 @@ lemma cancelIPC_notin_epQueue:
...
+  apply (clarsimp simp: bind_assoc updateReply_def)
+  apply wpsimp
+         apply (wpsimp wp: cleanReply_replies_scs_sym_refs)
+        apply wp
+         apply wps
+         apply wpsimp
+        apply (rule_tac Q="\<lambda>_ s. (replySCs_of s) (the (replyPrev reply)) = None \<and>
+                 sqheap_refs_inv (scReplies_of s)
+                  (\<lambda>a. if a = rptr then None else replySCs_of s a)"
+       in hoare_strengthen_post[rotated], clarsimp)
```
Comment (corlewis) [inline proof/refine/ARM/Ipc_R.thy:5367]: nitpick: indentation here and in the next two `hoare_strengthen_posts`

**Review by mbrcknl — APPROVED** [review]
Looks good!

Perhaps squash the last two fixup commits in the preceding refine proofs commit.

File: proof/refine/ARM/Ipc_R.thy [hunk 10]
```diff
@@ -5199,12 +5265,180 @@ lemma cancelIPC_notin_epQueue:
...
+  done
+
+crunches blockedCancelIPC, cancelSignal
+  for replies_scs_sym_refs[wp]: replies_scs_sym_refs
+  (wp: crunch_wps  ignore: setSchedContext setReply updateReply)
+
+lemma cancelIPC_replies_scs_sym_refs [wp]:
+  "\<lbrace>replies_scs_sym_refs and (\<lambda>s. sym_refs (list_refs_of_replies' s))\<rbrace>
+  cancelIPC t
+  \<lbrace>\<lambda>_. replies_scs_sym_refs\<rbrace>"
```
Comment (corlewis) [inline proof/refine/ARM/Ipc_R.thy:5432]: nitpick: indentation

**Review by corlewis — APPROVED** [review]
Awesome work! It's nice to see that the way that you have removed `sym_refs` has led to shorter proofs if anything.

The only problem that I might have is that in my `valid_replies'` work I've been using a `valid_replies'_sc_asrt` assertion in `bindScReply`, which requires `sym_refs` in the corres proof. Hopefully this won't actually be an issue though, the `replies_scs_sym_refs` you've introduced could be sufficient.

File: proof/refine/ARM/Invariants_H.thy [hunk 11]
```diff
@@ -260,6 +260,30 @@ abbreviation tcbs_of' :: "kernel_state \<Rightarrow> obj_ref \<Rightarrow> tcb o
...
+
+abbreviation tcbs_scs_sym_refs where
+  "tcbs_scs_sym_refs s \<equiv> sqheap_refs_inv (tcb_scs_of' s) (scTCBs_of s)"
+
+abbreviation replies_scs_sym_refs where
+  "replies_scs_sym_refs s \<equiv> sqheap_refs_inv (scReplies_of s) (replySCs_of s)"
```
[the remark this answers is not in the document]
Comment (mbrcknl) [reply proof/refine/ARM/Invariants_H.thy:285]: They are the same.

[the remark this answers is not in the document]
Comment (mbrcknl) [reply proof/refine/ARM/Invariants_H.thy:285]: ...except for the usual disagreements over definitions vs abbreviations, etc. :-)

[the remark this answers is not in the document]
Comment (mktnk3) [reply proof/refine/ARM/Invariants_H.thy:285]: I think the difference goes far beyond that, and in my opinion what we have here as well as the related part of at the end of AInvs have excessive layers of definitions that we don’t benefit from and could do without.

The heap symmetry is a simple notion. It is perfectly fine to define it directly. Generally speaking, a definition (or abbreviation for that matter) should capture the concept succinctly, without coercing anyone into a particular way of thinking when there are other ways to arrive at that concept. Coercing people in that way will be counterproductive because it will impose extra mental load on them.

If some of the subconcepts are useful, it can be derived or given as alternatives, rather than forced building blocks.

But I also would like to say that I don’t see much point in redefining simple things such as forall and implication under different names. These are simple enough things that it is easy to capture the meaning just by glancing the statements. Why do we want to encapsulate and rename them to obscure their meaning? I don’t see the point of having `pred_map_eq` in the heap context to start with. It is equivalent to `m x = Some y` and, to be honest, I don’t quite understand why one would want to hide that.

[the remark this answers is not in the document]
Comment (mktnk3) [reply proof/refine/ARM/Invariants_H.thy:285]: Well, there might be some cases where a certain combination of simple components is very much recurrent and worthwhile to package it up, but I don’t think that is the case for what we have here. This is quite an overkill for a fairy simple concept and we could do with some streamlining.

[the remark this answers is not in the document]
Comment (MitchellBuckley) [reply proof/refine/ARM/Invariants_H.thy:285]: I didn't know that `sym_heap` existed, so I'm happy to look into use that. However, please keep in mind that I didn't pull these definitions out of thin air, I copied them from DetSchedSchedule so they are consistent with much of the existing proofs.

File: proof/refine/ARM/Ipc_R.thy (hunk 4 above)
Comment (MitchellBuckley) [reply proof/refine/ARM/Ipc_R.thy:4996]: Great point!

File: proof/refine/ARM/Invariants_H.thy [hunk 12]
```diff
@@ -260,6 +260,30 @@ abbreviation tcbs_of' :: "kernel_state \<Rightarrow> obj_ref \<Rightarrow> tcb o
...
+definition sqheap_refs_retract_at :: "('a \<rightharpoonup> 'b) \<Rightarrow> ('b \<rightharpoonup> 'a) \<Rightarrow> 'a \<Rightarrow> bool" where
+  "sqheap_refs_retract_at heap symheap p \<equiv> \<forall>r. pred_map_eq r heap p \<longrightarrow> pred_map_eq p symheap r"
+
+definition sqheap_refs_retract :: "('a \<rightharpoonup> 'b) \<Rightarrow> ('b \<rightharpoonup> 'a) \<Rightarrow> bool" where
+  "sqheap_refs_retract heap symheap \<equiv> \<forall>p. sqheap_refs_retract_at heap symheap p"
+
+definition sqheap_refs_inv :: "('a \<rightharpoonup> 'b) \<Rightarrow> ('b \<rightharpoonup> 'a) \<Rightarrow> bool" where
+  "sqheap_refs_inv heap symheap \<equiv> sqheap_refs_retract heap symheap \<and> sqheap_refs_retract symheap heap"
+
+lemmas sqheap_refs_inv_defs = sqheap_refs_inv_def sqheap_refs_retract_def sqheap_refs_retract_at_def
```
[the remark this answers is not in the document]
Comment (MitchellBuckley) [reply proof/refine/ARM/Invariants_H.thy:275]: It stands for "squashed heap". I'm not sure about pronounciation. I'll put a comment in :)

File: proof/refine/ARM/Invariants_H.thy (hunk 11 above)
[the remark this answers is not in the document]
Comment (mbrcknl) [reply proof/refine/ARM/Invariants_H.thy:296]: The point of making definitions is to control rewriting, and to build abstractions together with machinery that works at a higher level. It's very possible I failed to do that with the definitions that Mitch copied here. But in general, it's not sustainable to expose every low-level logical connective or quantifier to the simplifier and classical prover, so I would often prefer even a flawed attempt at building abstractions over exposing everything to the simplifier.

[the remark this answers is not in the document]
Comment (mktnk3) [reply proof/refine/ARM/Invariants_H.thy:296]: From what I have seen so far, `sym_heap` and projections play quite nicely with simplifier/automation. The only thing you might want to keep in mind is to remove `opt_mapE` from the rule set. That is usually the culprit when the simplifier is too aggressive.

Frankly, I am skeptical of the gain in choosing automation friendly definition at the cost of human brain efficiency for these particular constructs. Also, I really struggle to understand why you’d want to hide away projections under definitions when we have been moving towards using projections more extensively.

File: proof/refine/ARM/Ipc_R.thy [hunk 13]
```diff
@@ -10,6 +10,20 @@ begin
 
 context begin interpretation Arch . (*FIXME: arch_split*)
 
+lemma replySCs_of_obj_at'_retract:
+  "valid_objs' s \<Longrightarrow>
+   replies_scs_sym_refs s \<Longrightarrow>
+     \<forall>rPtr scPtr. obj_at' (\<lambda>a. scReply a = Some rPtr) scPtr s \<longrightarrow>
+            obj_at' (\<lambda>a. replyNext a = Some (Head scPtr)) rPtr s"
```
[the remark this answers is not in the document]
Comment (MitchellBuckley) [reply proof/refine/ARM/Ipc_R.thy:17]: I agree. I always felt a bit uncomfortable with this lemma for exactly those reasons. I'll see if it's hard to replace.

File: proof/refine/ARM/Invariants_H.thy (hunk 11 above)
[the remark this answers is not in the document]
Comment (mktnk3) [reply proof/refine/ARM/Invariants_H.thy:296]: I also have a comment from another angle. There is version 1 in AInvs, which is not the same thing as `sym_heap`. So, `sym_heap` was added, serving its purpose perfectly well. Then, now you changed it to version 2 to be the same thing as `sym_heap`. Add this will calls for some considerations on what to do with the version 1 and `sym_heap`, I would think.  So, could you tell me your plan on this if you are pushing for merging this version 2  (Mitch and Matt?) ?

[the remark this answers is not in the document]
Comment (MitchellBuckley) [reply proof/refine/ARM/Invariants_H.thy:296]: I'm not pushing for merging this version 2. I said above that I did not know that `sym_heap` existed and that I would look into using it. I have already partially updated this PR to use `sym_heap` (not pushed yet). If you are concerned about using `pred_map_eq` then we can have further discussion, but that is not something new that I am trying to introduce and so I did not consider that there was any problem using it.

[the remark this answers is not in the document]
Comment (mbrcknl) [reply proof/refine/ARM/Invariants_H.thy:296]: @mktnk3, since version 1 came before `sym_heap`, can you tell us what your plan was? I know that the stuff in AInvs is far from ideal, so I'd be happy if you have ways to improve it. W.r.t to this PR, I am ok with what @MitchellBuckley has proposed, but I'm also happy for you to give him some clear direction on what changes you'd like.

[the remark this answers is not in the document]
Comment (mktnk3) [reply proof/refine/ARM/Invariants_H.thy:296]: Version 1 as is does not achieve what `sym_heap` does. They are not the same in purpose, and they are defined totally different way (`sym_heap` is much simpler). So, I added `sym_heap` as something new and different. I have always had in mind that we need some cleanup in AInvs DetSched files, but I consider it as a separate thing.

But now, if this version 2 is the same in terms of semantics as `sym_heap`, and is a modification or improvement of version 1, that would call for some justification/adjustment, is what I meant. You can’t be just adding another thing on top of these, I’d say.

[the remark this answers is not in the document]
Comment (mktnk3) [reply proof/refine/ARM/Invariants_H.thy:296]: Ok, we can see how Mitch goes with the change for now, I suppose.

[the remark this answers is not in the document]
Comment (mktnk3) [reply proof/refine/ARM/Invariants_H.thy:296]: To be honest, I don’t see the need of introducing`pred_map_eq`, either. It not used in Refine so far, except for the very few places in some proofs for AInvs invariants. We have been doing fine with all the Refine proper stuff without using this definition, and we do use the projection extensively.

**Comment by mktnk3** [comment]
I have one question: this PR removes sym_refs asserts, but would it be worth considering keeping asserts of sym_refs for subsets of refs (i.e., heaps)? Can these `replies_scs_sym_refs` be asserted and maybe crossed? Then we could probably simply the overall proof, maybe? Just a thought.

File: proof/refine/ARM/KHeap_R.thy (hunk 1 above)
Comment (MitchellBuckley) [reply proof/refine/ARM/KHeap_R.thy:3937]: I looked for this and could not find it, but it does exist in two places with reply objects. I like the direct equality that this pattern uses. We can discuss `pred_map` separately.

Comment (mktnk3) [reply proof/refine/ARM/KHeap_R.thy:3937]: Well, we have `pred_map_eq t (scTCBs_of s) p = scTCBs_of s p = Some t`. And we also know `obj_at' (\<lambda>x. scTCB x = Some t) p s = sc_at’ p s & scTCBs_of s p = Some t`. So, this equality is pretty immediate if we can assume `sc_at’ p s`.

The question is, why do we need to go via `pred_map_eq` when we could easily have equality for `scTCBs_of s p = Some t` directly?

Comment (mktnk3) [reply proof/refine/ARM/KHeap_R.thy:3937]: I just realised that this `obj_at (xxx)` pattern must have been copied from AInvs.

I would like you all to note the difference between `obj_at` and `obj_at’`. The latter asks for the alignment conditions, which we often do not need. If the information you actually need is only projections (object field values), we shouldn’t have `obj_at’`.

And, when we do need alignment conditions, it is better if we separate the `obj_at’` and the projection information because, by mixing those, we run the risk of having to prove alignment when we don’t need to.

The existing Refine proof is indeed a total mix of these, and we are forced to prove alignment again and again, which we could do without. So, for the new part of the proof we are adding, it would be good to be ensuring this distinction.

Comment (MitchellBuckley) [reply proof/refine/ARM/KHeap_R.thy:3937]: In answer to your first question: `scTCBs_of s p = Some t` exposes heap evaluation to the simplifier via `opt_mapE`.
In this example
```
lemma test_lemma1:
  "⟦scTCBs_of s p = Some t; scs_of' s p = Some j⟧ ⟹ foo"
  apply (clarsimp)
  oops
```
the hypothesis will be immediately simplified to `scTCB sc = Some t; sc_of' v'a = Some sc; ksPSpace s p = Some v'a`. While this may provide detailed information about the state of the proof, it prevent the application of any drule or erule that would have matched on `scTCBs_of s p = Some t`. Yes, I can remove `opt_mapE` from [elim], but you could alternatively add `pred_map_eq` to [simp].

In this case, going via `pred_map_eq` preserves this common pattern and allows for repeated combination of other matching simp rules, erules and drules. I don't think using heaps directly will preserve this information.

Comment (MitchellBuckley) [reply proof/refine/ARM/KHeap_R.thy:3937]: Addressing your second comment. I'm well aware of alignment information, it's somewhat patronising to have you explain it to me.

While this lemma is not optimal (I prefer the pattern you have provided in a separate comment), the entire point of the lemma is to remove `obj_at'` phrases from proofs in order to reason about heap values and ignore alignment. This lemma is close to the kind of replacement you highlighted elsewhere and so I'm not sure what point you're trying to make.

**Comment by MitchellBuckley** [comment]
> I have one question: this PR removes sym_refs asserts, but would it be worth considering keeping asserts of sym_refs for subsets of refs (i.e., heaps)? Can these `replies_scs_sym_refs` be asserted and maybe crossed? Then we could probably simplify the overall proof somewhat, maybe? Just a thought.

I'm happy to consider this if it really does simplify the proofs, but I suspect it does not. My understanding is that a cross lemma will provide `sym_refs` on the concrete side when it exists on the abstract side. But in that case we must show that partial sym_refs is known on the abstract side and it will need to be lifted through abstract-side functions up to a point where `invs` holds in its entirety. So as far as I can see, we would be trading lifting-partial-sym-refs-on-concrete for lifting-partial-sym-refs-on-abstract. Perhaps I'm missed something, are there advantages that I'm missing?

File: proof/refine/ARM/KHeap_R.thy (hunk 1 above)
Comment (mktnk3) [reply proof/refine/ARM/KHeap_R.thy:3937]: >Yes, I can remove `opt_mapE` from [elim], but you could alternatively add `pred_map_eq` to [simp].

Removing `opt_mapE` from the rule set is what we have been doing for the whole of Refine proof so far. So, please stick with what we have been doing rather than introducing something different unless you are going to change the whole thing in that way.

Comment (MitchellBuckley) [reply proof/refine/ARM/KHeap_R.thy:3937]: A further note, which supports for "hiding things behind definitions" is any proof of the form
```
lemma test_lemma2:
  "⟦sym_heap h1 h2'; foo⟧ ⟹ sym_heap h1 h2"
  apply_trace (clarsimp)
  oops
```
Any call to clarsimp (and not simp) will immediately introduce `\forall p p'.` into the context and leave a goal of the form `(h1 p = Some p') = (h2 p' = Some p)` which is not abbreviated to `sym_heap h1 h2` and so there is no way to use any rules or erules concerning `sym_heap`. In particular, `delta_sym_refs` is an elim rule of this form.

Comment (mktnk3) [reply proof/refine/ARM/KHeap_R.thy:3937]: > In this case, going via `pred_map_eq` preserves this common pattern and allows for repeated combination of other matching simp rules, erules and drules. I don't think using heaps directly will preserve this ~information~ pattern.

I don’t think I understand fully what you are trying to say here, but having this definition will leave us with numerous lemmas that we have written so far that are not in the `pred_map_eq` pattern that won’t match with then. Please consider that we have been doing fine with our approach so far.

Comment (MitchellBuckley) [reply proof/refine/ARM/KHeap_R.thy:3937]: > Removing opt_mapE from the rule set is what we have been doing for the whole of Refine proof so far. So, please stick with what we have been doing rather than introducing something different unless you are going to change the whole thing in that way.
I'm really not introducing anything different Miki, there are 900+ instances of `pred_map` in Ainvs. I was never told that proofs in refine needed to avoid these patterns and this PR is the first time that we've had any conflict on the issue. If you want to make a new decision going forward, that's fine, but it's simply not true that I'm introducing something different.

Comment (mktnk3) [reply proof/refine/ARM/KHeap_R.thy:3937]: > A further note, which supports for "hiding things behind definitions" is any proof of the form
> 
> ```
> lemma test_lemma2:
>   "⟦sym_heap h1 h2'; foo⟧ ⟹ sym_heap h1 h2"
>   apply_trace (clarsimp)
>   oops
> ```
> 
> Any call to clarsimp (and not simp) will immediately introduce `\forall p p'.` into the context and leave a goal of the form `(h1 p = Some p') = (h2 p' = Some p)` which is not abbreviated to `sym_heap h1 h2` and so there is no way to use any rules or erules concerning `sym_heap`. In particular, `delta_sym_refs` is an elim rule which we might want to use.

For this, I have made this suggestion as a DM on mattermost to you:
"by the way, if all these argument can be resolved by having sym_heap as definition, please do consider that”
so please consider that - and I think that would be the only definition layer that we need.

Comment (MitchellBuckley) [reply proof/refine/ARM/KHeap_R.thy:3937]: > For this, I have made this suggestion as a DM on mattermost to you:
"by the way, if all these argument can be resolved by having sym_heap as definition, please do consider that”
so please consider that - and I think that would be the only definition layer that we need.

Fair enough.

Comment (corlewis) [reply proof/refine/ARM/KHeap_R.thy:3937]: I don't think this conversation is making much progress and personally I think there are benefits and negatives in both directions. Can I suggest that we get together offline to properly work through the options and decide on a path forwards?

Comment (mktnk3) [reply proof/refine/ARM/KHeap_R.thy:3937]: > > Removing opt_mapE from the rule set is what we have been doing for the whole of Refine proof so far. So, please stick with what we have been doing rather than introducing something different unless you are going to change the whole thing in that way.
> 
> I'm really not introducing anything different Miki, there are 900+ instances of `pred_map` in Ainvs. I was never told that proofs in refine needed to avoid these patterns and this PR is the first time that we've had any conflict on the issue. If you want to make a new decision going forward, that's fine, but it's simply not true that I'm introducing something different.

`pred_map` instances in AInvs have very little bearing on projections in Refine, I would think? And we are talking about `pred_map_eq`, right? We don’t have `pred_map_eq` in Refine, and we should keep it that way, is what I am saying.

Besides, just think about this. You are suggesting to introduce this `pred_map_eq` to package up `m x = Some y', and at the same time suggesting to put `pred_map_eq y m x = (m x = Some y)` in the simp set. I would think this is indicative that we could do without this roundtrip at all.

**Comment by mktnk3** [comment]
I was assuming that the AInvs counterpart exists. Isn’t this layer of definitions adapted from AInvs’s side partial sym_refs constructs? And wasn’t it used for similar arguments?

**Comment by MitchellBuckley** [comment]
> I was assuming that the AInvs counterpart exists. Isn’t this layer of definitions adapted from AInvs’s side partial sym_refs constructs? And wasn’t it used for similar arguments?

That's a good point, I'll check.

File: proof/refine/ARM/KHeap_R.thy (hunk 1 above)
Comment (mktnk3) [reply proof/refine/ARM/KHeap_R.thy:3937]: > I don't think this conversation is making much progress and personally I think there are benefits and negatives in both directions. Can I suggest that we get together offline to properly work through the options and decide on a path forwards?

I’m happy to meet but not sure when...

Comment (mktnk3) [reply proof/refine/ARM/KHeap_R.thy:3937]: Sorry if I sounded patronising, that was not my intention. I just wanted to make sure that everyone is on the same page.

> While this lemma is not optimal (I prefer the pattern you have provided in a separate comment), the entire point of the lemma is to remove `obj_at'` phrases from proofs in order to reason about heap values and ignore alignment. This lemma is close to the kind of replacement you highlighted elsewhere and so I'm not sure what point you're trying to make.

My point is that this might not be the best pattern for Refine proofs. As I said earlier, it looks like this pattern is introduced in several places in the proof by instantiation, but this might not be the best approach in Refine.

Comment (MitchellBuckley) [reply proof/refine/ARM/KHeap_R.thy:3937]: > Sorry if I sounded patronising, that was not my intention. I just wanted to make sure that everyone is on the same page.
> 
> > While this lemma is not optimal (I prefer the pattern you have provided in a separate comment), the entire point of the lemma is to remove `obj_at'` phrases from proofs in order to reason about heap values and ignore alignment. This lemma is close to the kind of replacement you highlighted elsewhere and so I'm not sure what point you're trying to make.
> 
> My point is that this might not be the best pattern for Refine proofs. As I said earlier, it looks like this pattern is introduced in several places in the proof by instantiation, but this might not be the best approach in Refine.

Thank you. Ok, if it's the `pred_map_eq` you'd prefer to avoid then I understand what you mean.

File: proof/refine/ARM/Ipc_R.thy [hunk 14]
```diff
@@ -5199,12 +5265,180 @@ lemma cancelIPC_notin_epQueue:
...
+  apply wpsimp
+      apply (wps, wpsimp wp: setSchedContext_scTCBs_of)
+     apply wpsimp+
+    apply (wps, wpsimp wp: threadSet_tcb_scs_of')
+   apply (wpsimp wp: threadGet_wp)
+  apply (clarsimp simp: tcb_at'_ex_eq_all)
+  apply (drule sym, simp)
+  apply (subgoal_tac "pred_map_eq (the (tcbSchedContext tcb)) (tcb_scs_of' s) t")
+   apply (clarsimp simp: sqheap_refs_inv_defs pred_map_eq_upd)
+   apply (auto)[1]
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Ipc_R.thy]: Does something else work here? If not, maybe change to `subgoal by auto`? (I think it'd be good if we could decide on what to do with these `auto`s)

File: proof/refine/ARM/Ipc_R.thy [hunk 15]
```diff
@@ -5199,12 +5265,180 @@ lemma cancelIPC_notin_epQueue:
...
+  by (wpsimp wp: setSchedContext_scTCBs_of gts_wp')
+
+lemma replyRemoveTCB_tcbs_scs_sym_refs[wp]:
+  "replyRemoveTCB param_a \<lbrace>tcbs_scs_sym_refs\<rbrace>"
+  by (rule hoare_weaken_pre, wps, wpsimp, simp)
+
+crunches cancelIPC
+  for tcbs_scs_sym_refs[wp]: tcbs_scs_sym_refs
+  (wp: crunch_wps threadSet_tcb_scs_of'_inv
+ ignore: setSchedContext threadSet)
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Ipc_R.thy:5323]: Indentation

File: proof/refine/ARM/Ipc_R.thy [hunk 16]
```diff
@@ -5199,12 +5265,180 @@ lemma cancelIPC_notin_epQueue:
...
+  cleanReply rptr
+  \<lbrace>\<lambda>_. replies_scs_sym_refs\<rbrace>" (is "\<lbrace>?pre\<rbrace> _ \<lbrace>_\<rbrace>")
+  unfolding cleanReply_def
+  apply (clarsimp simp: bind_assoc updateReply_def)
+  apply (wpsimp wp: hoare_drop_imp | wps)+
+  done
+
+lemma replyRemoveTCB_replies_scs_sym_refs [wp]:
+  "\<lbrace>replies_scs_sym_refs and (\<lambda>s. sym_refs (list_refs_of_replies' s))\<rbrace>
+  replyRemoveTCB t
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Ipc_R.thy]: Another space here

File: proof/refine/ARM/Ipc_R.thy [hunk 17]
```diff
@@ -5199,12 +5265,180 @@ lemma cancelIPC_notin_epQueue:
...
+        apply wpsimp
+       apply wp
+        apply wps
+        apply wpsimp
+       apply wpsimp
+      apply wpsimp
+     apply (rule_tac Q="\<lambda>replya s. replies_scs_sym_refs s \<and> sym_refs (list_refs_of_replies' s)"
+    in hoare_strengthen_post[rotated])
+      apply (clarsimp split: if_splits)
+    apply (safe)
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Ipc_R.thy:5368]: Is `safe` generally preferred? I think I remember @Xaphiosis preferring `inro conjI impI` or something similar (if there is no better option)

File: proof/refine/ARM/KHeap_R.thy [hunk 18]
```diff
@@ -3921,4 +3935,315 @@ lemma threadGet_getObject:
...
+   apply (clarsimp simp: sc_tcbs_of_pred_map_equiv tcb_scs_of_pred_map_equiv)
+   apply (clarsimp simp: sqheap_refs_inv_defs tcb_scs_of_pred_map_equiv)
+  apply (frule obj_at'_typ_at', simp)
+  apply (frule obj_at_ko_at', clarsimp)
+  apply (frule (1) tcb_ko_at_valid_objs_valid_tcb')
+  apply (clarsimp simp: valid_tcb'_def)
+  done
+
+lemma not_idle_scTCB:
+  "tcbs_scs_sym_refs s \<Longrightarrow>
```
Comment (michaelmcinerney) [inline proof/refine/ARM/KHeap_R.thy:3980]: Use `[| ... ; ... |] ==> ...` format

**Review by michaelmcinerney — APPROVED** [review]
Nice!

I think now is the right time to pick an approach to the partial `sym_refs` problem, but that aside, this is looking good

File: proof/refine/ARM/KHeap_R.thy [hunk 19]
```diff
@@ -3921,4 +3927,296 @@ lemma threadGet_getObject:
...
+  by (intro iffI; clarsimp simp: obj_at'_real_def ko_wp_at'_def pred_map_eq
+                                 projectKOs opt_map_def)
+
+lemma scReplies_of_pred_map_equiv:
+  "obj_at' (\<lambda>a. scReply a = Some sc) p s = 
+   (sc_at' p s \<and> pred_map_eq sc (scReplies_of s) p)"
+  by (intro iffI; clarsimp simp: obj_at'_real_def ko_wp_at'_def pred_map_eq
+                                 projectKOs opt_map_def)
+
+lemma tcbs_scs_sym_refs_equiv:
```
Comment (MitchellBuckley) [inline proof/refine/ARM/KHeap_R.thy:3959]: This is unused, will delete.

**Comment by MitchellBuckley** [comment]
There are 3 major issues which we need to sort out for this PR. Some offline discussion seems to be in order.
1. `pred_map_eq`
2. `sym_heap` abbreviations and definitions.
3. Crossing partial `sym_heaps` over to abstract side using assertions.

Are there any further issues which should be added to this list?

**Comment by MitchellBuckley** [comment]
> > I was assuming that the AInvs counterpart exists. Isn’t this layer of definitions adapted from AInvs’s side partial sym_refs constructs? And wasn’t it used for similar arguments?
> 
> That's a good point, I'll check.

I think that this definitely possible. If we proceeded down that line we would need to
1. implement two partial sym refs assertions in Haskell (or one assertion covering both partial sym refs invariants)
2. Possibly lift one of those partial sym refs assumptions through the abstract (as far as I can see, only the sc<->tcb sym_refs are already lifted through the abstract)
3. Balance the significance of this improvement against the time taken to implement it.

On point 3 I'm agnostic and happy to hear some arguments for this approach in offline discussion.

File: proof/refine/ARM/KHeap_R.thy [hunk 20]
```diff
@@ -3921,4 +3927,259 @@ lemma threadGet_getObject:
...
+   \<Longrightarrow> (scp, ReplySchedContext) \<in> state_refs_of' s r"
+  apply (subgoal_tac "reply_at' r s")
+   apply (clarsimp simp: state_refs_of'_def obj_at'_real_def ko_wp_at'_def projectKO_reply)
+  apply (erule (1) KOReply_reply_at'[rotated])
+  apply (clarsimp simp: projectKO_reply)
+  done
+
+lemma invs'_tcbs_scs_sym_refs:
+  "\<lbrakk>sym_refs (state_refs_of' s); pspace_aligned' s; pspace_distinct' s; valid_objs' s\<rbrakk>
+   \<Longrightarrow> tcbs_scs_sym_refs s"
```
Comment (mktnk3) [inline proof/refine/ARM/KHeap_R.thy:4118]: I might be missing something, but we need `valid_objs’` here? Also, it would be nice to have some consistent names for this lemma and the next one.

File: proof/refine/ARM/KHeap_R.thy [hunk 21]
```diff
@@ -3921,4 +3927,259 @@ lemma threadGet_getObject:
...
+  unfolding threadSet_def
+  apply (wpsimp wp: setObject_tcb_wp getObject_tcb_wp)
+  apply (clarsimp simp: tcb_at'_ex_eq_all)
+  apply (erule back_subst[where P=P], rule ext)
+  apply (clarsimp simp: opt_map_def obj_at'_real_def ko_wp_at'_def projectKOs)
+  done
+
+lemma replyNexts_Some_replySCs_None:
+  "replyNexts_of s rPtr \<noteq> None \<Longrightarrow> replySCs_of s rPtr = None"
+   by (clarsimp simp: obj_at'_real_def ko_wp_at'_def projectKOs opt_map_def split: option.split)
```
Comment (mktnk3) [inline proof/refine/ARM/KHeap_R.thy:4175]: Something very similar (and have the same name) exists in Reply_R, and that one is in a pair with the opposite. This one is actually a better statement. Can you please add the opposite version here, too? And maybe replace the one in Reply_R with this one?

File: proof/refine/ARM/KHeap_R.thy [hunk 22]
```diff
@@ -3921,4 +3927,259 @@ lemma threadGet_getObject:
...
+  apply (intro iffI conjI impI allI)
+   apply (frule (2) TCBSC_pred_map_state_refs_of')
+   apply (frule (1) sym_refsD, simp add: SCTcb_state_refs_of' obj_at'_sc_tcbs_of_equiv)
+  apply (frule (2) SCTcb_pred_map_state_refs_of')
+   apply (frule (1) sym_refsD, simp add: TCBSchedContext_state_refs_of' obj_at'_tcb_scs_of_equiv)
+  done
+
+lemma sym_refs_replies_scs:
+  "\<lbrakk>sym_refs (state_refs_of' s); pspace_aligned' s; pspace_distinct' s; valid_objs' s\<rbrakk>
+   \<Longrightarrow> replies_scs_sym_refs s"
```
Comment (mktnk3) [inline proof/refine/ARM/KHeap_R.thy:4129]: We already have:
```
lemma sym_refs_replySCs_of_scReplies_of:
 "⟦sym_refs (state_refs_of' s'); pspace_aligned' s'; pspace_distinct' s'⟧
  ⟹ replySCs_of s' rp = Some scp ⟷ scReplies_of s' scp = Some rp"
  ```
which says the same thing just not phrased in terms of `sym_heap`, and the proof is pretty much direct. I think we can do the similar for the `tcbs_scs_sym_refs` one above, too.

File: proof/refine/ARM/KHeap_R.thy (hunk 20 above)
Comment (mktnk3) [reply proof/refine/ARM/KHeap_R.thy:4118]: See also the comment below.

**Review by mktnk3 — COMMENTED** [review]
Thanks for the updates, Mitch. I’ve added a few comments, I will continue with the rest later.

File: proof/refine/ARM/KHeap_R.thy [hunk 23]
```diff
@@ -3921,4 +3927,259 @@ lemma threadGet_getObject:
...
+  done
+
+lemma KOTCB_tcb_at':
+  "\<exists>v'. ksPSpace s p = Some (KOTCB v') \<Longrightarrow> pspace_aligned' s \<Longrightarrow> pspace_distinct' s \<Longrightarrow> tcb_at' p s"
+  apply (clarsimp simp: pred_map_def state_refs_of'_def obj_at'_real_def ko_wp_at'_def projectKO_tcb
+                        tcb_of'_Some)
+  apply (intro conjI)
+   apply (erule (1) pspace_alignedD')
+  apply (erule (1) pspace_distinctD')
+  done
```
[the remark this answers is not in the document]
Comment (mktnk3) [reply proof/refine/ARM/KHeap_R.thy:4005]: We actually have this generalised version already: `aligned’_distinct’_obj_at’I`.

And the `clarsimp` lines in the proofs have a bunch of unused things. Just having `obj_at’_def` and `projectKOs` should be enough.

[the remark this answers is not in the document]
Comment (MitchellBuckley) [reply proof/refine/ARM/KHeap_R.thy:4005]: Yup, can prove an `injectKO` version and it's not really any less usable than the original.

File: proof/refine/ARM/Ipc_R.thy [hunk 24]
```diff
@@ -2007,6 +2006,287 @@ crunches handleFaultReply
...
+  apply (erule (1) valid_objs_sc_replies_distinct)
+  done
+
+lemma replyPush_corres:
+  "can_donate = can_donate' \<Longrightarrow>
+   corres dc (invs and tcb_at caller and tcb_at callee and reply_at reply_ptr
+              and ex_nonz_cap_to reply_ptr
+              and st_tcb_at active caller
+              and reply_sc_reply_at (\<lambda>tptr. tptr = None) reply_ptr
+              and reply_tcb_reply_at (\<lambda>tptr. tptr = None) reply_ptr
```
Comment (mktnk3) [inline proof/refine/ARM/Ipc_R.thy:2200]: So, since we already have `reply_at reply_ptr` in the preconditions, we could drop the alignment from these two and just use projections: `%s. replySCs_of s reply_ptr = None` and `%s. replyTCBs_of s reply_ptr = None`.

But, given the mixed style of existing proofs, it is probably not clear if this always helps. But if we are keeping these two lines, we probably want to change the `tptr` in the `reply_sc_reply_at` line to something else.

Comment (mktnk3) [reply proof/refine/ARM/Ipc_R.thy:2200]: hmm. I think I am confusing the abstract and the concrete. Anyway, the point is that this is something possible, if we want.

**Review by mktnk3 — COMMENTED** [review]
Do we want to make `tcbs_scs_sym_refs` and `replies_scs_sym_refs` look a bit more “concrete”? By using capitalisation or primes? Maybe?

File: proof/refine/ARM/Ipc_R.thy (hunk 24 above)
Comment (MitchellBuckley) [reply proof/refine/ARM/Ipc_R.thy:2200]: I agree it will be nicer to use projections. In this case I'm mainly just moving the lemma and it was already like that, so because this PR is already quite big I'd like to leave that kind of change for some later cleanup if that's ok.

Comment (MitchellBuckley) [reply proof/refine/ARM/Ipc_R.thy:2200]: (I'll change the `tcb` to `sc` though)

**Comment by MitchellBuckley** [comment]
> Do we want to make `tcbs_scs_sym_refs` and `replies_scs_sym_refs` look a bit more “concrete”? By using capitalisation or primes? Maybe?

Will do. Currently going with `scReply_sym_refs` and `scTCB_sym_refs`

File: proof/refine/ARM/Invariants_H.thy [hunk 25]
```diff
@@ -250,16 +250,24 @@ abbreviation scs_of' :: "kernel_state \<Rightarrow> obj_ref \<Rightarrow> sched_
...
-  "tcb_of' kobj \<equiv> (case kobj of KOTCB tcb \<Rightarrow> Some tcb
-                               | _         \<Rightarrow> None)"
+abbreviation tcb_of' :: "kernel_object \<Rightarrow> tcb option" where
+  "tcb_of' \<equiv> projectKO_opt"
 
 abbreviation tcbs_of' :: "kernel_state \<Rightarrow> obj_ref \<Rightarrow> tcb option" where
   "tcbs_of' s \<equiv> ksPSpace s |> tcb_of'"
 
 abbreviation tcb_scs_of' :: "kernel_state \<Rightarrow> obj_ref \<Rightarrow> obj_ref option" where
   "tcb_scs_of' s \<equiv> tcbs_of' s |> tcbSchedContext"
```
Comment (mktnk3) [inline proof/refine/ARM/Invariants_H.thy:260]: This is something existing, but I think we want to rename this to `tcbSCs_of`.

Comment (MitchellBuckley) [reply proof/refine/ARM/Invariants_H.thy:260]: Agreed, but can we leave that for another time? I would like to get this merged so I can continue with `sendIPC_corres`

Comment (mktnk3) [reply proof/refine/ARM/Invariants_H.thy:260]: That is understandable, but, if you actually see that we currently have about five occurrences of this in the MCS Refine, where as this PR will add 30+ of them. So, I think it would make sense to change this here....

**Comment by MitchellBuckley** [comment]
Closed in favour of a fresh PR at https://github.com/seL4/l4v/pull/256
